US06333291B1
A2.3 mg (0.0014 mmol) portion of the thus obtained complex, 0.5 g (2.8 mmol) of methyl benzoylacetate and 2 ml of methanol were put into a stainless steel autoclave and stirred at 50° C. for 14 hours under a hydrogen pressure of 30 atm to obtain optically active methyl 3-phenyl-3-hydroxypropionate. When measured by HPLC, the conversion ratio was 100% and its optical purity was 96.5% ee.

reactant | methyl benzoylacetate | 2.8 mmol, 0.5 g | C(C1=CC=CC=C1)(=O)CC(=O)OC | C10H10O3
solvent | methanol | 2 ml | CO | CH4O
product | methyl 3-phenyl-3-hydroxypropionate | C1(=CC=CC=C1)C(CC(=O)OC)O | C10H12O3
